US08669234B2
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (4.85 g) was dissolved in acetonitrile (65 mL), and triethylamine (3.09 mL) was added. A solution of 2-bromo-1-(4-bromonaphthalen-1-yl)-ethanone (6.60 g) in acetonitrile (35 mL) was added. Reaction mixture was stirred 90 minutes and evaporated under vacuum. Oil was dissolved in DCM (50 mL), extracted once with water (20 mL) and once with NaHCO3 solution (20 mL), and evaporated under vacuum to a concentrated liquid. Solution was purified by chromatography (0-50% ethyl acetate:hexane) and evaporated under vacuum, giving pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromonaphthalen-1-yl)-2-oxo-ethyl]ester 1-tert-butyl ester (8.95 g, 95%) as a tan solid.

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 4.85 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | triethylamine | 3.09 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(4-bromonaphthalen-1-yl)-ethanone | 6.60 g | BrCC(=O)C1=CC=C(C2=CC=CC=C12)Br | C12H8Br2O
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromonaphthalen-1-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | 8.95 g, 95% | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C1=CC=C(C2=CC=CC=C12)Br | C22H24BrNO5
